US05726175
0.44 ml of methyl isocyanate is added dropwise with stirring to a suspension of 580 mg of ethyl 8-amino-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate in 10 ml of dimethylformamide and stirring is continued for 12 hours at a temperature close to 20° C. The reaction mixture is then filtered, rinsed with dimethylformamide and dried at 35° C. under vacuum (1 mm Hg; 0.13 kPa). 320 mg of ethyl 8-(3-methylureido)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate are obtained as a dihydrate in the form of a beige solid melting above 260° C. (analysis % calculated C: 53.59, H: 5.25, N: 17.36; % found C: 53.2, H: 4.7, N: 17.7).

reactant | methyl isocyanate | 0.44 ml | CN=C=O | C2H3NO
reactant | ethyl 8-amino-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 580 mg | NC1=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=C1 | C16H14N4O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 8-(3-methylureido)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 320 mg | CNC(NC1=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=C1)=O | C18H17N5O4
